US07714010B2
b) N-[5-(2-Amino-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-nicotinamide
(2-{7,7-Dimethyl-6-oxo-2-[(pyridine-3-carbonyl)-amino]-6,7-dihydro-3H-imidazo[4,5-f]indol-5-ylmethyl}-phenyl)-carbamic acid tert-butyl ester (33.2 mg) is dissolved in CH2Cl2 (4 ml) and TFA (1.5 ml). The mixture is stirred at RT for 0.5 h. Saturated K2CO3 solution is added and the aqueous layer is extracted with CH2Cl2. The organic layer is dried over MgSO4, evaporated to dryness and the residue is purified by RP-HPLC, eluted with MeCN/water to give the desired product (4,5 mg).

reactant | (2-{7,7-Dimethyl-6-oxo-2-[(pyridine-3-carbonyl)-amino]-6,7-dihydro-3H-imidazo[4,5-f]indol-5-ylmethyl}-phenyl)-carbamic acid tert-butyl ester | 33.2 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)CN1C(C(C=2C=C3C(=CC12)NC(=N3)NC(=O)C=3C=NC=CC3)(C)C)=O)=O | C29H30N6O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | TFA | 1.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[5-(2-Amino-benzyl)-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-nicotinamide | 4,5 mg | NC1=C(CN2C(C(C=3C=C4C(=CC23)NC(=N4)NC(C4=CN=CC=C4)=O)(C)C)=O)C=CC=C1 | C24H22N6O2
